US06080754
5-Nitro-2-n-propylpyridine
Sodium metal (6.9 g, 300 mmol) was added in small pieces to a refluxing solution of diethyl malonate (90 ml, 480 mmol). When the sodium was completely dissolved, 2-chloro-5-nitropyridine (45 g, 285 mmol) was added in small portions. Reflux was continued for 20 hours. Water (500 ml) was added and the organic material was extracted into 4×200 ml of ethyl acetate. The combined organic layers were washed with brine, dried over sodium sulfate, and the solvent was evaporated. The crude malonate intermediate was then dissolved in 100 ml of water and 100 ml of concentrated sulphuric acid, and the mixture was refluxed at 110° C. for 18 hours. The mixture was then poured into 1200 ml of concentrated sodium hydroxide solution, and the organic material was extracted into 5×350 ml of dichloromethane. The combined organic layers were washed with brine, dried over magnesium sulfate, and the solvent was evaporated. This gave 42.60 g (90%) of 5-nitro-2-n-propylpyridine as an orange oil. 1H-NMR (MeOD, 200 MHz) δ: 0.98 (t, 3H); 1.79 (sext, 2H); 2.89 (t, 2H); 7.51 (d, 1H); 8.48 (dd, 1H); 9.25 (d, 1H).

reactant | Sodium | 300 mmol, 6.9 g | [Na] | Na
reactant | diethyl malonate | 480 mmol, 90 ml | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 2-chloro-5-nitropyridine | 285 mmol, 45 g | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
solvent | Water | 500 ml | O | H2O
product | 5-Nitro-2-n-propylpyridine | [N+](=O)([O-])C=1C=CC(=NC1)CCC | C8H10N2O2
